US07256198B2
Step 1: 3,3-Dibromo-6-chloro-1,3-dihydro-indol-2-one
At room temperature, to a solution of 6-chlorooxindole (10.0 g, 59.7 mmol ) in t-BuOH (500 mL) and water (2.6 mL) was added pyridinium tribromide (57.25 g, 79 mmol, 3 eq) and the reaction was stirred for 3.5 hr. The reaction was diluted with water (500 mL) and extracted with EtOAc (3×). The combined organic extracts were washed with sat. aq. NaHCO3 (3×), dried over MgSO4, filtered and concentrated to give the title compound as a tan solid (19.66 g, 100% yield). NMR (400 MHz, DMSO-d6): consistent. MS: (API-ES+) m/z 325 [M+H].

reactant | 6-chlorooxindole | 59.7 mmol, 10.0 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | pyridinium tribromide | 79 mmol, 57.25 g, 3 eq | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | t-BuOH | 500 mL | CC(C)(C)O | C4H10O
solvent | water | 2.6 mL | O | H2O
solvent | water | 500 mL | O | H2O
product | 3,3-Dibromo-6-chloro-1,3-dihydro-indol-2-one | 19.66 g, 100% yield | BrC1(C(NC2=CC(=CC=C12)Cl)=O)Br | C8H4Br2ClNO
